US08809342B2
To a room temperature solution of 6-(1-(4′-(trifluoromethyl)biphenyl-4-yloxy)ethyl)nicotinic acid (60.0 mg, 0.16 mmol) in N,N-dimethylformamide (3 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate (118 mg, 0.310 mmol). Methyl 3-aminopropionate hydrochloride (32.4 mg, 0.232 mmol) and N-methylmorpholine (93.9 mg, 0.930 mmol) were added. The resulting mixture was stirred at room temperature for 12 hours. The reaction was diluted with saturated ammonium chloride and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was dissolved in tetrahydrofuran (5 mL). 2N LiOH (5 mL) was added. The mixture was stirred at room temperature for 2 hours. The reaction was acidified to pH ˜3 with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by HPLC (column: Kromasil Eternity-5-C18 150×30 mm, 5 μm; modifier: formic acid 0.225%; gradient: 46 to 66% MeCN in water) gave 3-(6-(1-(4′-(trifluoromethyl)biphenyl-4-yloxy)ethyl)nicotinamido)propanoic acid (25.3 mg, 34%). 1H NMR (400 MHz, CD3OD, δ): 8.95 (m, 1H), 8.16-8.19 (m, 1H), 7.66-7.72 (m, 4H), 7.60-7.62 (m, 1H), 7.54-7.56 (m, 2H), 6.98-7.00 (m, 2H), 5.55-5.57 (q, 1H), 3.62-3.65 (m, 2H), 2.62-2.64 (m, 2H), 1.70 (d, 3H). MS (M+1): 459.4.

reactant | 6-(1-(4′-(trifluoromethyl)biphenyl-4-yloxy)ethyl)nicotinic acid | 0.16 mmol, 60.0 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C)C1=NC=C(C(=O)O)C=C1)(F)F | C21H16F3NO3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate | 0.310 mmol, 118 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Methyl 3-aminopropionate hydrochloride | 0.232 mmol, 32.4 mg | Cl.NCCC(=O)OC
reactant | N-methylmorpholine | 0.930 mmol, 93.9 mg | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 3-(6-(1-(4′-(trifluoromethyl)biphenyl-4-yloxy)ethyl)nicotinamido)propanoic acid | 25.3 mg, 34% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C)C1=NC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C24H21F3N2O4
